US07691850B2
a) 1,1-dimethylethyl(3S)-3-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate
To a stirred solution of (S)-3-(aminomethyl)-1-N-Boc-pyrrolidine (2.0 g, 10.0 mmole), in dry CH2Cl2 (50 mL) at RT was added diisopropylethyl amine (2.6 mL, 15.0 mmole) and trifluoroacetic anhydride (1.39 mL, 10.0 mmole). After 3 h at RT, the reaction contents were concentrated under vacuum. Purification on silica (EtOAc) afforded the title compound (2.96 g, 99%) as an off-white solid: LC-MS (ES) m/e 297 (M+H)+.

reactant | (S)-3-(aminomethyl)-1-N-Boc-pyrrolidine | 10.0 mmole, 2.0 g | NC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | diisopropylethyl amine | 15.0 mmole, 2.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 10.0 mmole, 1.39 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl(3S)-3-{[(trifluoroacetyl)amino]methyl}-1-pyrrolidinecarboxylate | 2.96 g, 99% | FC(C(=O)NC[C@H]1CN(CC1)C(=O)OC(C)(C)C)(F)F | C12H19F3N2O3
